US07250442B2
3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-(3-isopropyl-phenyl)-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.350 g, 0.581 mmol), 3isopropylphenylboronic acid (0.190 g, 1.16 mmol), copper (II) acetate (0.106 g, 0.581 mmol), triethylamine (0.16 mL, 1.16 mmol), 4 angstrom molecular sieves, and dichloromethane (10 mL). Stir at room temperature overnight under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 70% dichloromethane in hexanes and concentrate. Dissolve the resulting compound (0.189 g, 0.268 mmol), in THF (4 mL). Add a solution of tetrabutylammonium fluoride (1.0 M) in THF (0.67 mL). Stir for 1 h. Add saturated aqueous ammonium chloride(10 mL), water and ethyl acetate (50 mL). Separate the layers and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with 25% to 50% ethyl acetate in hexanes to give 0.089 g (31%) of the title compound: mass Spectrum (ion spray): m/z=492(M+1); 1H NMR(DMSO-d6); δ8.36 (s, 2H), 7.54 (t, 1H), 7.41-7.37 (m, 2H), 7.32-7.27 (m, 3H), 7.16 (t, 1H), 6.83-6.80 (m, 5H), 3.05-3.01 (m, 1H), 2.13 (s, 12H), 1.28 (d, 6H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 0.581 mmol, 0.350 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | 3isopropylphenylboronic acid | 1.16 mmol, 0.190 g | C(C)(C)C=1C=C(C=CC1)B(O)O | C9H13BO2
reactant | triethylamine | 1.16 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.67 mL | C1CCOC1 | C4H8O
catalyst | copper (II) acetate | 0.581 mmol, 0.106 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-(3-isopropyl-phenyl)-1,3-dihydro-indol-2-one | 0.089 g, 31% | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C1=CC(=CC=C1)C(C)C)=O)C1=CC(=C(C(=C1)C)O)C)C | C33H33NO3
